datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].CC([Se-])C[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.CC([Se-])C[NH2+:10][H:20] 10=20;20,21=21",
"CC(C)[N+:21](CCC(c1ccccc1)c1ccccn1)(C(C)C)[H:20].CNc1cc[n:10]cn1>>CC(C)[N:21](CCC(c1ccccc1)c1ccccn1)C(C)C.CNc1cc[n+:10]([H:20])cn1 10=20;20,21=21",
"COc1ccc(CCC(=O)[O-:10])cc1.Fc1cccc[n+:21]1[H:20]>>COc1ccc(CCC(=O)[O:10][H:20])cc1.Fc1cccc[n:21]1 10=20;20,21=21",
"COc1ccccc1[N+:21](=CN(C)C)[H:20].C[N:10]1CCC(NN)CC1>>COc1ccccc1[N:21]=CN(C)C.C[N+:10]1([H:20])CCC(NN)CC1 10=20;20,21=21",
"C1CCC[NH:10]CCCCCCNCC1.Cc1nc2c[n+:21]([H:20])cnc2nc1C>>C1CCC[NH+:10]([H:20])CCCCCCNCC1.Cc1nc2c[n:21]cnc2nc1C 10=20;20,21=21",
"Brc1cccc[n:10]1.O=Cc1ccc([O:21][H:20])cc1Cl>>Brc1cccc[n+:10]1[H:20].O=Cc1ccc([O-:21])cc1Cl 10=20;20,21=21",
"C1CCC[NH:10]CCC1.OCCNc1nc(NCCO)[n+:21]([H:20])c(NCCO)n1>>C1CCC[NH+:10]([H:20])CCC1.OCCNc1nc(NCCO)[n:21]c(NCCO)n1 10=20;20,21=21",
"Cc1ccc(OC(=O)CCCC[N+:21](C)(C)[H:20])cc1.O=C1CCC(=O)[N-:10]1>>Cc1ccc(OC(=O)CCCC[N:21](C)C)cc1.O=C1CCC(=O)[N:10]1[H:20] 10=20;20,21=21",
"CN(C)CCCNc1cc[n+:21]([H:20])c2ccccc12.Nc1cc2ccccc2cc1[O-:10]>>CN(C)CCCNc1cc[n:21]c2ccccc12.Nc1cc2ccccc2cc1[O:10][H:20] 10=20;20,21=21",
"C[N+]1=CC=C(C(=O)[CH:21](C2=CC=C(Cl)C([N+](=O)[O-])=C2)[H:20])C=C1.OCC[O-:10]>>C[N+]1=CC=C(C(=O)[CH-:21]C2=CC=C(Cl)C([N+](=O)[O-])=C2)C=C1.OCC[O:10][H:20] 10=20;20,21=21",
"CC(C)[NH+:21](CC(O)c1cccc(N)c1)[H:20].CCC(=O)C(c1ccccc1)(c1ccccc1)C(C)C[N:10]1CCOCC1>>CC(C)[NH:21]CC(O)c1cccc(N)c1.CCC(=O)C(c1ccccc1)(c1ccccc1)C(C)C[N+:10]1([H:20])CCOCC1 10=20;20,21=21",
"CN1c2ccccc2C(=[NH:10])c2ccccc21.C[n+]1c(N)cc[n+:21]([H:20])c1[O-]>>CN1c2ccccc2C(=[NH+:10][H:20])c2ccccc21.C[n+]1c(N)cc[n:21]c1[O-] 10=20;20,21=21",
"C1CC[NH:10]C1.O=[N+]([O-])c1cccc(S(=O)(=O)[N:21](c2ccccc2)[H:20])c1>>C1CC[NH+:10]([H:20])C1.O=[N+]([O-])c1cccc(S(=O)(=O)[N-:21]c2ccccc2)c1 10=20;20,21=21",
"O=C(CC1[NH2+]Nc2ccccc21)[O-:10].Oc1ccc2[nH]c[n+:21]([H:20])c2c1>>O=C(CC1[NH2+]Nc2ccccc21)[O:10][H:20].Oc1ccc2[nH]c[n:21]c2c1 10=20;20,21=21",
"Nc1ccc(S(=O)(=O)[N-:10]c2ccc(N)cn2)cc1.c1cc(N2CCOCC2)c2c([N+:21]3([H:20])CCOCC3)cccc2c1>>Nc1ccc(S(=O)(=O)[N:10](c2ccc(N)cn2)[H:20])cc1.c1cc(N2CCOCC2)c2c([N:21]3CCOCC3)cccc2c1 10=20;20,21=21",
"CC(=O)N1CCNc2nc[n:10]c(C)c21.CCCC(C(=O)[O-])[NH2+:21][H:20]>>CC(=O)N1CCNc2nc[n+:10]([H:20])c(C)c21.CCCC(C(=O)[O-])[NH2:21] 10=20;20,21=21",
"C[NH+]1C[C@@H](C(=O)[O-:10])C[C@@]2(O)c3cccc4[nH]cc(c34)C[C@@H]12.Cc1ccc([O:21][H:20])c2[n+]1CCS2>>C[NH+]1C[C@@H](C(=O)[O:10][H:20])C[C@@]2(O)c3cccc4[nH]cc(c34)C[C@@H]12.Cc1ccc([O-:21])c2[n+]1CCS2 10=20;20,21=21",
"CC(C)(O)C(C(=O)[O:21][H:20])c1ccc(C2CCCCC2)cc1.CS/C(C)=[N:10]\C>>CC(C)(O)C(C(=O)[O-:21])c1ccc(C2CCCCC2)cc1.CS/C(C)=[N+:10](\C)[H:20] 10=20;20,21=21",
"Nc1nc(N)[n:10]c2ccccc12.O=C1c2ccccc2C(=O)N1[O:21][H:20]>>Nc1nc(N)[n+:10]([H:20])c2ccccc12.O=C1c2ccccc2C(=O)N1[O-:21] 10=20;20,21=21",
"NC(=S)[N-:10]c1ccc([N+](=O)[O-])cc1.OCCNCC[NH2+:21][H:20]>>NC(=S)[N:10](c1ccc([N+](=O)[O-])cc1)[H:20].OCCNCC[NH2:21] 10=20;20,21=21",
"CC1=C(CC(C)[NH:10]CC(O)c2ccc(Br)cc2)CCC1(C)C.Nc1ncnc2c1ncn2CCOCP(=O)([O-])[O:21][H:20]>>CC1=C(CC(C)[NH+:10](CC(O)c2ccc(Br)cc2)[H:20])CCC1(C)C.Nc1ncnc2c1ncn2CCOCP(=O)([O-])[O-:21] 10=20;20,21=21",
"C[NH2+]CC[NH+:21](C)[H:20].O=C(C1c2ccccc2Oc2ccccc21)[O-:10]>>C[NH2+]CC[NH:21]C.O=C(C1c2ccccc2Oc2ccccc21)[O:10][H:20] 10=20;20,21=21",
"CC(C)[NH:10][C@H](c1ccccc1)[C@H](O)c1ccccc1.CC[N+:21](CC)(CCSC1CCCCC1)[H:20]>>CC(C)[NH+:10]([C@H](c1ccccc1)[C@H](O)c1ccccc1)[H:20].CC[N:21](CC)CCSC1CCCCC1 10=20;20,21=21",
"CN(C)C(=O)C[NH:10]C.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CN(C)C(=O)C[NH+:10](C)[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C#CC(C)(C)[N+:21](C)(C(C)C)[H:20].CNc1nc(C)[n:10]c2nc[nH]c12>>C#CC(C)(C)[N:21](C)C(C)C.CNc1nc(C)[n+:10]([H:20])c2nc[nH]c12 10=20;20,21=21",
"CC(C)(S)C(C(=O)[O-:10])n1cc[nH+]c1Cc1ccccc1.c1c(CN2CC[NH2+]CC[NH+:21]([H:20])CC2)n[nH]c1CN1CCNCC[NH2+]CC1>>CC(C)(S)C(C(=O)[O:10][H:20])n1cc[nH+]c1Cc1ccccc1.c1c(CN2CC[NH2+]CC[NH:21]CC2)n[nH]c1CN1CCNCC[NH2+]CC1 10=20;20,21=21",
"CC1(C)OC(=O)[N-:10]C1=O.OCC[NH+:21](c1ccccc1)[H:20]>>CC1(C)OC(=O)[N:10]([H:20])C1=O.OCC[NH:21]c1ccccc1 10=20;20,21=21",
"CC1(C)SC2C(C(=O)[O-])[NH+]=C(CCC[C@@H](C(=O)[O-])[NH2:10])N2[C@@H]1C(=O)[O-].CCS/C(c1ccccc1)=[NH+:21]\[H:20]>>CC1(C)SC2C(C(=O)[O-])[NH+]=C(CCC[C@@H](C(=O)[O-])[NH2+:10][H:20])N2[C@@H]1C(=O)[O-].CCSC(c1ccccc1)=[NH:21] 10=20;20,21=21",
"C(=C/C[N:10]1CCCCC1)\CN1CCCCC1.COC1=CC2CCC1(C(=O)[O:21][H:20])CC2>>C(=C/C[N+:10]1([H:20])CCCCC1)\CN1CCCCC1.COC1=CC2CCC1(C(=O)[O-:21])CC2 10=20;20,21=21",
"N[N-:10]C(=O)c1ccccc1.O=C(c1ccccc1)[O:21][H:20]>>N[N:10](C(=O)c1ccccc1)[H:20].O=C(c1ccccc1)[O-:21] 10=20;20,21=21",
"Cc1ccc(C[NH3+])cc1[NH2+:21][H:20].S=C1Oc2ccccc2[N-:10]1>>Cc1ccc(C[NH3+])cc1[NH2:21].S=C1Oc2ccccc2[N:10]1[H:20] 10=20;20,21=21",
"CC(=O)N(C)c1cc[n:10]cc1.CC(C)c1ccc(C(=O)/C=C/C(=O)[O:21][H:20])cc1>>CC(=O)N(C)c1cc[n+:10]([H:20])cc1.CC(C)c1ccc(C(=O)/C=C/C(=O)[O-:21])cc1 10=20;20,21=21",
